* 
.subckt LoopGainProbe LoopIn LoopOut StimIn LGainOut CurMon 

E1 LoopOut 0 N001 0 1
E2 LGainOut 0 LoopIn 0 -1
R1 N001 LoopIn 10Meg
F1 CurMon LoopIn E1 1
C1 N001 StimIn 1
R2 CurMon 0 1
.backanno


.ends LoopGainProbe 

